US07531532B2
2-Amino-4-(4-amino-3-chlorophenoxy)pyridine (707 mg) as disclosed in WO 02/32872 was dissolved in tetrahydrofuran (15 ml) under a nitrogen atmosphere, and then triethylamine (0.523 ml) and phenyl chloroformate (0.470 ml) were added dropwise thereto while cooling in an ice bath, followed by raising the temperature gradually to room temperature while stirring. After 6 hrs, the reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=3:2) to provide a crude product of 4-(4-amino-3-chlorophenoxy)-2-phenoxycarbonylaminopyridine (920 mg). The crude product was dissolved in N,N-dimethylformamide (9 ml), and then 2 M solution of ethylamine in tetrahydrofuran (4.5 ml) was added thereto, followed by stirring at room temperature for 23 hrs. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:2). Fractions containing the target compound were concentrated to give a residue, to which hexane-ethyl acetate (5:1) was added to precipitate crystals. The crystals were filtered, and dried under aeration to provide the titled compound (298 mg, 32%) as white crystals.

reactant | 2-Amino-4-(4-amino-3-chlorophenoxy)pyridine | 707 mg | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)N)Cl | C11H10ClN3O
reactant | triethylamine | 0.523 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.470 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4-(4-amino-3-chlorophenoxy)-2-phenoxycarbonylaminopyridine | 920 mg | NC1=C(C=C(OC2=CC(=NC=C2)NC(=O)OC2=CC=CC=C2)C=C1)Cl | C18H14ClN3O3
